US04536402
(E)-2-[(Ethylamino)phenylmethylene]-benzo[b]thiophen-3(2H)-one-1-oxide
Prepared analogous to Example 1 from (E)-2-[(ethylamino)phenylmethylene]-benzo[b]thiophen-3(2H)-one and aqueous hydrogen peroxide in glacial acetic acid.

reactant | (E)-2-[(ethylamino)phenylmethylene]-benzo[b]thiophen-3(2H)-one | C(C)N\C(=C\1/C(C2=C(S1)C=CC=C2)=O)\C2=CC=CC=C2 | C17H15NOS
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (E)-2-[(Ethylamino)phenylmethylene]-benzo[b]thiophen-3(2H)-one-1-oxide | C(C)N\C(=C\1/C(C2=C(S1=O)C=CC=C2)=O)\C2=CC=CC=C2 | C17H15NO2S
